US04057556
A solution at -25° C of 2-methoxy-7-[N-[(4-methylphenyl)sulfonyl]-N-methylamino]-2,4,6cycloheptatrien-1-one (described above, 4.0 g) in methanol (40 ml) is saturated with ammonia gas and heated in a pressure bottle at 80° C for 4 hours. The solution is cooled to -70° C, the bottle is opened and the solvent is evaporated to yield 2-amino-7-[N-[(4-methylphenyl)sulfonyl]-N-methylamino]-2,4,6-cycloheptatrien-1-one, mp 221°-222° C.

reactant | 2-methoxy-7-[N-[(4-methylphenyl)sulfonyl]-N-methylamino]-2,4,6cycloheptatrien-1-one | COC=1C(C(=CC=CC1)N(C)S(=O)(=O)C1=CC=C(C=C1)C)=O | C16H17NO4S
reactant | ammonia | N | H3N
solvent | methanol | 40 ml | CO | CH4O
product | 2-amino-7-[N-[(4-methylphenyl)sulfonyl]-N-methylamino]-2,4,6-cycloheptatrien-1-one | NC=1C(C(=CC=CC1)N(C)S(=O)(=O)C1=CC=C(C=C1)C)=O | C15H16N2O3S
